US03931235
3-(3,4-Dichlorobenzylsulfinyl)- 4 -hydroxy-6-methyl-2-pyrone
3-(3,4-Dichlorobenzylthio)-4-hydroxy-6-methyl-2-pyrone (12.0 g., 0.037 mole) and 40% peroxyacetic acid (7.2 g., 0.0378 mole) were dissolved in glacial acetic acid (200 ml.). After a day there was no peroxide left and a solid had crystallized. The mixture was diluted with water and extracted with methylene chloride. The extract was dried (MgSO4) and evaporated to dryness leaving 11.9 g. (95 percent) of an off-white solid. Recrystallization from benzene gave the pure product as a white solid, m.p. 144°-146°C.

reactant | 3-(3,4-Dichlorobenzylthio)-4-hydroxy-6-methyl-2-pyrone | 0.037 mole, 12.0 g | ClC=1C=C(CSC=2C(OC(=CC2O)C)=O)C=CC1Cl | C13H10Cl2O3S
reactant | peroxyacetic acid | 0.0378 mole, 7.2 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(3,4-Dichlorobenzylsulfinyl)- 4 -hydroxy-6-methyl-2-pyrone | ClC=1C=C(CS(=O)C=2C(OC(=CC2O)C)=O)C=CC1Cl | C13H10Cl2O4S
